US08193351B2
Step 1: Synthesis of 2,4-dichloro-5-iodobenzoic acid methyl ester
Sodium iodate (4.4 g) and iodine (11.1 g) were added to 90% sulfuric acid (330 mL), and stirred at room temperature for 8 hours. 2,4-Dichlorobenzoic acid (21 g) commercially available was added and stirred at the same temperature for 24 hours. The reaction solution was poured into ice water (3 L), and the precipitated solid material was collected by filtration. Further, the solid material was washed with water, and dried under reduced pressure. 2,4-Dichloro-5-iodobenzoic acid (16.8 g) was obtained by recrystallization (acetic acid-water). The resulting 2,4-dichloro-5-iodobenzoic acid (2 g) was dissolved in a mixture of dichloromethane (20 mL) and methanol (20 mL). Trimethylsilyldiazomethane (hexane solution, 2 M) was added dropwise until the solution became yellow. A small amount of acetic acid was added, and then the resulting mixture was concentrated under reduced pressure. The resulting residue was recrystallized using hexane to give the title compound 2,4-dichloro-5-iodobenzoic acid methyl ester as white solid (2 g).

reactant | 2,4-dichloro-5-iodobenzoic acid | 2 g | ClC1=C(C(=O)O)C=C(C(=C1)Cl)I | C7H3Cl2IO2
reactant | Trimethylsilyldiazomethane | 2 M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | 2,4-dichloro-5-iodobenzoic acid methyl ester | 2 g | COC(C1=C(C=C(C(=C1)I)Cl)Cl)=O | C8H5Cl2IO2
